US06031121
Synthesis of 2-hydroxymethyl-3-phenylpropionic acid
The product (107.8 g) in Reference Example 3, namely 2-benzylidene-3-hydroxypropionic acid, is dissolved in methanol (500 ml), followed by addition of triethylamine (100 ml; 717 mmol) and 5% palladium-carbon (5.00 g; water content of 52.7%) for catalytic reduction in a hydrogen atmosphere for 50 hours. The reaction solution is filtered through Celite to remove the palladium-carbon. The resulting filtrate is subjected to HPLC analysis, indicating that the filtrate contains the title compound (71.0 g; 394 mmol) (at a yield of 65.7% (on a benzaldehyde basis)). The filtrate is concentrated under reduced pressure, and the resulting residue is dissolved in ethyl acetate (600 ml), followed by addition of water (600 ml) and 37% hydrochloric acid (150 ml) and subsequent agitation, to extract the resulting organic phase. The organic phase is washed with an aqueous mixture solution of water (240 ml) and 37% hydrochloric acid and then with saturated saline (300 ml), and dried over anhydrous sodium sulfate. By filtering off the resulting dried matter, the solution is concentrated under reduced pressure, to give a crude product of the title compound. The crude product is dissolved in ethyl acetate (150 ml), followed by addition of hexane (450 ml), and the resulting mixture is gradually cooled from 60° C. to 5° C., to precipitate crystal, which is then filtered and dried to recover the title compound (48.45 g at a purity of 96.5%; 295.5 mmol).

reactant | triethylamine | 717 mmol, 100 ml | C(C)N(CC)CC | C6H15N
reactant | hydrogen | [H][H] | H2
reactant | 2-benzylidene-3-hydroxypropionic acid | C(C1=CC=CC=C1)=C(C(=O)O)CO | C10H10O3
solvent | methanol | 500 ml | CO | CH4O
catalyst | palladium-carbon | 5.00 g | [C].[Pd]
product | 2-hydroxymethyl-3-phenylpropionic acid | 394 mmol, 71.0 g, yield of 65.7% | OCC(C(=O)O)CC1=CC=CC=C1 | C10H12O3
